US08212081B2
2,6-di-tert-butylphenol was dissolved in glacial acetic acid. Subsequently, urotropin and water were added, and the reaction mixture heated at not more than 2° C. below the reflux temperature for 4 to 5 hours. The precipitated product was filtered off and washed with water and methanol, and dried on a rotary evaporator. The molar ratios of the reactants used and also the determined yields of 3,5-di-tert-butyl-4-hydroxybenzaldehyde, based on 2,6-di-tert-butylphenol, are shown in Table 4.

reactant | 2,6-di-tert-butylphenol | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | urotropin | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
